US07256215B2
To a suspension of 14.89 g of 5-cyano-N-[2-(2′-methanesulfonyl-3-methoxymethoxybiphenyl-4-yl)ethyl]-2-methoxybenzenesulfonamide in a mixture of 30 mL of isopropanol and 90 mL of tetrahydrofuran was added 11.7 mL of concentrated hydrochloric acid. After being stirred at 50° C. for 2 hours, the reaction mixture was diluted with 50 mL of water, and extracted with 150 mL of ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution, and brine, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on aminopropylated silica gel (eluent: ethyl acetate-methanol) to give 10.22 g of 5-cyano-N-[2-(3-hydroxy-2′-methanesulfonylbiphenyl-4-yl) ethyl]-2-methoxybenzenesulfonamide as a colorless amorphous.

reactant | 5-cyano-N-[2-(2′-methanesulfonyl-3-methoxymethoxybiphenyl-4-yl)ethyl]-2-methoxybenzenesulfonamide | 14.89 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)OCOC)OC | C25H26N2O7S2
reactant | hydrochloric acid | 11.7 mL | Cl | ClH
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 5-cyano-N-[2-(3-hydroxy-2′-methanesulfonylbiphenyl-4-yl) ethyl]-2-methoxybenzenesulfonamide | 10.22 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)O)OC | C23H22N2O6S2
